US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.50 g, 1.60 mmol) and 4-fluorobenzoyl chloride (0.19 mL, 1.60 mmol) in N,N-dimethylformamide (10 mL), was added triethylamine (0.45 mL, 3.20 mmol) at room temperature under nitrogen. After 18 h, water (200 mL) was added and the solids were isolated by filtration. The crude product was triturated in 1 N aq. HCl (50 mL) for 2 h then in EtOAc (50 mL) for 18 h. The product was isolated by filtration, washed with EtOAc (25 mL) and dried in vacuo to give N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-fluoro-benzamide as a white solid (0.34 g, 53% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 4.06 min (94.63%); mp: 295-297° C.; 1H NMR (DMSO-d6) δ 1.85-2.12 (m, 1H, CHH), 2.22-2.47 (m, 1H, CHH), 2.54-2.70 (m, 1H, CHH), 2.79-3.03 (m, 1H, CHH), 4.31 (d, J=17.4 Hz, 1H, CHH), 4.45 (d, J=17.4 Hz, 1H, CHH), 4.59 (d, J=5.7 Hz, 2H, CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, CH), 7.32 (t, J=8.9 Hz, 2H, Ar), 7.47 (d, J=7.7 Hz, 1H, Ar), 7.54 (s, 1H, Ar), 7.70 (d, J=7.7 Hz, 1H, Ar), 7.99 (dd, J=5.6, 8.8 Hz, 2H, Ar), 9.18 (t, J=5.9 Hz, 1H, NH), 10.98 (br. s., 1H, NH); 13C NMR (DMSO-d6) δ 22.50, 31.21, 42.78, 47.13, 51.59, 115.26 (d, J=22.0 Hz), 122.08, 122.94, 127.08, 129.93 (d, J=8.8 Hz), 130.39, 130.64 (d, J=2.2 Hz), 142.39, 143.85, 163.93 (d, J=248.7 Hz), 165.22, 167.92, 170.98, 172.85; LCMS: MH=396; Anal Calcd for C21H18N3O4+0.1H2O: C, 63.50; H, 4.62; N, 10.58. Found: C, 63.19; H, 4.54; N, 10.55.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.60 mmol, 0.50 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-fluorobenzoyl chloride | 1.60 mmol, 0.19 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | triethylamine | 3.20 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-fluoro-benzamide | 0.34 g, 53% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(C1=CC=C(C=C1)F)=O)=O)=O | C21H18FN3O4
